US09035059B2
N-{2-Fluoro-4-[2-(pyridin-2-yl)ethoxy]phenyl}-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide
Powdered potassium hydroxide (2 mg, 36.2 μmol) was added to a solution of N-{2-fluoro-4-[2-(pyridin-2-yl)ethoxy]phenyl}-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide obtained (10 mg) in an ethanol-water mixture (9:1) (2 mL), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated under reduced pressure and water was added thereto. The mixture was extracted with ethyl acetate and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. Thereafter, the desiccant was filtered off, followed by concentration under reduced pressure to afford the title compound as a colorless solid (10 mg).

reactant | potassium hydroxide | 36.2 μmol, 2 mg | [OH-].[K+]
reactant | N-{2-fluoro-4-[2-(pyridin-2-yl)ethoxy]phenyl}-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | FC1=C(C=CC(=C1)OCCC1=NC=CC=C1)NS(=O)(=O)C=1C=C2CCN(CC2=CC1)C(C(F)(F)F)=O | C24H21F4N3O4S
solvent | ethanol water | 2 mL | C(C)O.O
product | N-{2-Fluoro-4-[2-(pyridin-2-yl)ethoxy]phenyl}-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | 10 mg | FC1=C(C=CC(=C1)OCCC1=NC=CC=C1)NS(=O)(=O)C=1C=C2CCNCC2=CC1 | C22H22FN3O3S
